US06498169B1
Synthesis of Ethyl 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]piperidine-4-carboxylate
To a solution of ethyl piperidine-4-carboxylate (514 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (969 mg) in acetonitrile (20 mL) was added potassium carbonate (452 mg). The mixture was stirred at room temperature for 4 hours and evaporated. The residual oil was subjected to a column of silica gel and eluted using hexane-ethyl acetate (2:1) and then chloroform-methanol (40:1). Fractions containing the product were collected and evaporated to give the title compound as white prisms.

reactant | ethyl piperidine-4-carboxylate | 514 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 969 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | potassium carbonate | 452 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Ethyl 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]piperidine-4-carboxylate | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)C(=O)OCC | C23H30N2O5
